*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.30e-03[uF]/250[V]
* Murata P/N :GCM21B5C2E332JX01
* Property : C = 3.30e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2E332JX01 Port1 Port2
C01 Port1 N01 3.30e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 7.07e-11
R03 N02 N03 1.06e-02
C04 N03 N04 1.90e-07
R04 N03 N04 1.82e+01
L05 N04 N05 5.90e-11
R05 N04 N05 3.33e-01
L06 N05 N06 7.46e-11
R06 N05 N06 2.20e-02
C07 N06 N07 2.32e-08
L07 N06 N07 1.82e-11
R07 N06 N07 2.28e-01
C08 N07 N08 5.80e-09
L08 N07 N08 3.04e-11
R08 N07 N08 4.74e-01
C09 N08 N09 4.24e-09
L09 N08 N09 1.27e-11
R09 N08 N09 1.24e-01
C10 N09 Port2 8.49e-13
L10 N09 Port2 4.34e-10
R10 N09 Port2 6.60e+02
.ENDS GCM21B5C2E332JX01
